US08685971B2
Synthesis of 1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-ethanone [B]
1-(4-Benzyloxy-3-methoxy-phenyl)-ethanone (24.61 g, 96 mmol) was dissolved in acetic acid (100 ml) and the mixture was cooled to 10° C. Nitric acid fuming (Fluka ID 84392, 100%, 10 ml, 240 mmol) was added dropwise to the cooled solution over 2 hours. The reaction mixture was allowed to come to room temperature and stirred for 16 hours. The reaction mixture was poured into water (400 ml). The precipitate was filtered, washed with water, then taken up in sodium hydrogencarbonate saturated aqueous solution (300 ml) and stirred for 2 hours. The precipitate was filtered, washed with water and dried. The raw product was recrystallized from ethyl alcohol (1000 ml) to give 18.25 g of product [B]. Yield 65%.

reactant | 1-(4-Benzyloxy-3-methoxy-phenyl)-ethanone | 96 mmol, 24.61 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)OC | C16H16O3
reactant | Nitric acid | 240 mmol, 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-ethanone | 18.25 g, Yield 65% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(C)=O)[N+](=O)[O-] | C16H15NO5
